US05624942
(1) Synthesis of an intermediate, 2-chloro-4-methoxy-6-(3-thienylmethyloxy)pyridine
To a solution containing 3-thiophenemethanol (0.45 g, 0.0033×1.2 mol) and sodium hydride (0.14 g, (ca.60% in mineral oil), 0.033×1.05 mol) in tetrahydrofuran, 2,6- dichloro-4-methoxypyridine (0.59 g, 0.0033 mol) was added and the resultant solution was refluxed for about 2 hours.

reactant | 3-thiophenemethanol | 1.2 mol, 0.45 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 1.05 mol, 0.14 g | [H-].[Na+]
reactant | 2,6- dichloro-4-methoxypyridine | 0.0033 mol, 0.59 g | ClC1=NC(=CC(=C1)OC)Cl | C6H5Cl2NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-methoxy-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)OC)OCC1=CSC=C1 | C11H10ClNO2S
